US04605759
In the process of this invention, there is no particular limitation on the sequence of charging the starting materials, the solvent, and the other materials. For example, an organic solvent having dissolved therein glycine, water and the aldehyde and optionally the phase transfer catalyst are charged, and with stirring, the alkali as a solid or an aqueous solution is charged or added dropwise to perform the reaction. Alternatively, it is possible to dissolve glycine in water and the alkali, and then add dropwise a solution of the benzaldehyde and the surface-active agent in an organic solvent to perform the reaction. Another method comprises charging or dropwise adding the alkali as a solid or aqueous solution into or to a mixture of glycine, water, the benzaldehyde, the organic solvent and the surface active agent, thereby performing the reaction. The reaction may be carried out at a temperature of 0° to 80° C. for 1 to 50 hours, preferably 10° to 60° C. for 3 to 30 hours. In this manner, the alkali metal or alkaline earth metal salt of the N-benzylidene-β-phenylserine is formed.

reactant | glycine | NCC(=O)O | C2H5NO2
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
solvent | water | O | H2O
product | N-benzylidene-β-phenylserine | C(C1=CC=CC=C1)=N[C@@H](C(O)C1=CC=CC=C1)C(=O)O | C16H15NO3
